US07262198B2
A solution of 2-(2-{4-[2-hydroxy-3-(2-methylbenzothiazol-5-yloxy)propyl]piperazinyl}ethyl)benzo[c]azoline-1,3-dione (101 mg, 0.21 mmol) in MeOH (0.84 mL) was treated with hydrazine hydrate (0.07 mL) and stirred at RT for 14 hours. HCl (1 mL, conc) was added and the solution was heated to 88° C. for 14 hours. Upon cooling, the resulting solid was filtered off and washed with H2O and EtOAc. The filtrate was pH adjusted to >12 (NaOH) and extracted with EtOAc. The combined organic layers were then concentrated to afford (2R)-1-[4-(2-aminoethyl)piperazinyl]-3-(2-methylbenzothiazol-5-yloxy)propan-2-ol as an oil.

reactant | 2-(2-{4-[2-hydroxy-3-(2-methylbenzothiazol-5-yloxy)propyl]piperazinyl}ethyl)benzo[c]azoline-1,3-dione | 0.21 mmol, 101 mg | OC(CN1CCN(CC1)CCN1C(C2=C(C1=O)C=CC=C2)=O)COC=2C=CC1=C(N=C(S1)C)C2 | C25H28N4O4S
reactant | hydrazine hydrate | 0.07 mL | O.NN
reactant | HCl | 1 mL | Cl | ClH
solvent | MeOH | 0.84 mL | CO | CH4O
product | (2R)-1-[4-(2-aminoethyl)piperazinyl]-3-(2-methylbenzothiazol-5-yloxy)propan-2-ol | NCCN1CCN(CC1)C[C@H](COC=1C=CC2=C(N=C(S2)C)C1)O | C17H26N4O2S
